US08530475B2
7-[3-(2-Methyl-1H-indol-4-yloxy)-propyl]-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene
4-(3-Chloro-propoxy)-2-methyl-1H-indole (0.16 g, 0.72 mmol), Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (0.1 g, 0.38 mmol), K2CO3 (72 mg, 0.52 mmol), acetonitrile (30 mL) were placed in a round bottom flask and refluxed overnight. To the reaction mixture were then added ethyl acetate (100 mL) and water (100 mL) and the resulting mixture stirred for 30 minutes. The organic layer was separated and dried with magnesium sulfate, filtered and the solvent evaporated under reduced pressure to yield a crude solid. The crude solid was purified with flash chromatography gradient [20% Ethyl acetate/heptane to 100% Ethyl acetate] to yield the title compound as a residue.

reactant | 4-(3-Chloro-propoxy)-2-methyl-1H-indole | 0.72 mmol, 0.16 g | ClCCCOC1=C2C=C(NC2=CC=C1)C | C12H14ClNO
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.38 mmol, 0.1 g | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | K2CO3 | 0.52 mmol, 72 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-[3-(2-Methyl-1H-indol-4-yloxy)-propyl]-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | CC=1NC2=CC=CC(=C2C1)OCCCN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2 | C30H33N3O
